US05302721
(3aS-cis)-1,2,3,3a,8,8a-Hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]-indol-5-yl 3,4-dihydro-2(1H)-isoquinolinecarboxylate
To the dichloroethane solution (which contained (-)-eseroline) was added, under N2, 13.2 g (1.0 equiv) of 1,1'-carbonyldiimidazole, as a solid, in one portion. The reaction mixture was cooled in an ice-bath. This was followed by the addition of 13.2 g (3.0 equiv) of glacial acetic acid and 10.8 g (1.07 equiv) of 1,2,3,4-tetrahydroisoquinoline. After stirring overnight, the reaction mixture was washed with 200 mL of water, 200 mL of 0.5N sodium hydroxide solution, and then 200 mL of water. After drying over anhydrous potassium carbonate or 4 Angstrom molecular sieves, the dichloroethane solution was concentrated under reduced pressure to give 26.53 g (87%) of crude product. The crude material was chromatrographed on silica gel, eluting with ethyl acetate. After concentrating, the residue was dissolved in 250 mL of cyclohexane, and slurried with 2.6 g of Norit. The suspension was filtered through Celite®, and the Celite® cake washed with 25 mL of cyclohexane. The filtrate was concentrated and the residue was recrystallized from cyclohexane to give 15.09 g (49%) of pure product.

reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | 1,1'-carbonyldiimidazole | 13.2 g, 1.0 equiv | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | acetic acid | 13.2 g, 3.0 equiv | C(C)(=O)O | C2H4O2
reactant | 1,2,3,4-tetrahydroisoquinoline | 10.8 g, 1.07 equiv | C1NCCC2=CC=CC=C12 | C9H11N
product | (3aS-cis)-1,2,3,3a,8,8a-Hexahydro-1,3a,8-trimethylpyrrolo[2,3-b]-indol-5-yl 3,4-dihydro-2(1H)-isoquinolinecarboxylate | 15.09 g, 49% | C1N(CCC2=CC=CC=C12)C(=O)OC=1C=C2[C@]3([C@@H](N(C2=CC1)C)N(CC3)C)C | C23H27N3O2
